US05668137
N-(5-Chloro-3-methoxypyrazin-2-yl)- N-(isobutoxycarbonyl)-4'-[2-(2 H)-tetrahydropyranyloxy]-2-biphenylsulphonamide (1.15 g) and pyridinium-p-toluenesulphonate (50 mg) in ethanol (50 ml) was heated at 60° C. for 3 hours. Volatile material was removed by evaporation and the residue was triturated with etherexane (1:1 v/v) to give N-(5-chloro-3-methoxypyrazin-2-yl)-4'-hydroxy- N-(isobutoxycarbonyl)-2-biphenylsulphonamide (0.96 g), m.p. 175°-177° C.; microanalysis found: C, 53.9; H, 4.8; N, 8.2%; C21H22C1N3O6 requires: C, 53.7; H, 4.5; N, 8.5%.

reactant | N-(5-Chloro-3-methoxypyrazin-2-yl)- N-(isobutoxycarbonyl)-4'-[2-(2 H)-tetrahydropyranyloxy]-2-biphenylsulphonamide | 1.15 g | ClC=1N=C(C(=NC1)N(S(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)OC1OCCCC1)C(=O)OCC(C)C)OC | C27H30ClN3O7S
reactant | pyridinium p-toluenesulphonate | 50 mg | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(5-chloro-3-methoxypyrazin-2-yl)-4'-hydroxy- N-(isobutoxycarbonyl)-2-biphenylsulphonamide | 0.96 g | ClC=1N=C(C(=NC1)N(S(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)O)C(=O)OCC(C)C)OC | C22H22ClN3O6S
